US06455550B1
4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[[1-[(2-morpholinyl)ethyl]cyclopentyl]carbonyl]-L-phenylalanine methyl ester was prepared from 4-[[(2,6-Dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester and 1-[(2-morpholinyl)ethyl]cyclopentane carboxylic acid using the general coupling procedure described in example 46 to provide a 62% yield. HRMS (C29H35Cl2B3O5): Obs. mass, 576.2531. Calcd. mass, 576.2582. (M+H).

reactant | 4-[[(2,6-Dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C17H16Cl2N2O3
reactant | 1-[(2-morpholinyl)ethyl]cyclopentane carboxylic acid | N1CC(OCC1)CCC1(CCCC1)C(=O)O | C12H21NO3
product | 4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[[1-[(2-morpholinyl)ethyl]cyclopentyl]carbonyl]-L-phenylalanine methyl ester | 62% yield | COC([C@@H](NC(=O)C1(CCCC1)CCC1CNCCO1)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C29H35Cl2N3O5
